US04282365
Step A: 2-Chlorocarbonyl-6,11-dihydro-11-oxodibenz[b,e]oxepin
Heat a solution of 5 gm. of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-carboxylic acid and 40 ml. of thionyl chloride under reflux for 20 minutes. Evaporate the reaction mixture under vacuum to dryness. Repeat the evaporation with two 30 ml. portions of carbon tetrachloride. Crystallize the residue from diisopropyl ether to obtain the title product.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-carboxylic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C15H10O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-Chlorocarbonyl-6,11-dihydro-11-oxodibenz[b,e]oxepin | ClC(=O)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9ClO3
